US05643893
6-Chloro-9-(4-dihydroxyborylbutyl)purine
Sodium hydride (0.22 g, 7.2 mmol) was added to a solution of 6-chloropurine (0.93 g, 6.0 mmol) in dimethylformamide (20 mL) and stirred for 10 minutes. 4-Bromobutyl boronic acid (1.1 g, 6.0 mmol) in dimethylformamide (5 mL) was added to the reaction mixture and stirred at room temperature for 16 hours. After the removal of the dimethylformamide under high vacuum, the residue was purified by column chromatography (chloroform/methanol discontinuous gradient 95:5, 9:1) to yield 0.78 g of pure product. Yield 51%; mp 135°-138° C.; 1H NMR (DMSO-d6) 0.55-0.68 (t, B CH2), 1.22-1.35 (m, B CH2 CH2), 1.78-1.91 (m, B CH2 CH2 CH2), 4.26-4.32 (t, CH2 CH2 N), 7.40-7.42 (s, (HO)2 B), 8.68-8.70 (s, H C8 purine), 8.80-8.81 (s, H C2 purine). Elemental Analysis. (C9H12BO2N4Cl); Calcd. C, 42.47%; H, 4.75%; N, 22.02%; Found C, 42.48%; H, 4.80%; N, 22.06%.

reactant | Sodium hydride | 7.2 mmol, 0.22 g | [H-].[Na+]
reactant | 6-chloropurine | 6.0 mmol, 0.93 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 4-Bromobutyl boronic acid | 6.0 mmol, 1.1 g | BrCCCCB(O)O | C4H10BBrO2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-9-(4-dihydroxyborylbutyl)purine | 0.78 g, Yield 51% | ClC1=C2N=CN(C2=NC=N1)CCCCB(O)O | C9H12BClN4O2
